US05047404
3-Dimethylamino-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
3-Methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine (0.6 g) was treated with a solution of dimethylamine in industrial methylated spirit (33%, 20 ml) at 100° C. in a pressure vessel for 24 hours. The cooled reaction mixture was evaporated under reduced pressure to afford a yellow solid residue which was dissolved in dilute aqueous sodium hydroxide and filtered. The filtrate was acidified with a few drops of concentrated hydrochloric acid to afford a yellow precipitate which was collected, washed with water and recrystallised from methanol to afford the title compound, 0.44 g, m.p. 257.5°-259° C.

reactant | 3-Methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 0.6 g | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2S
reactant | dimethylamine | CNC | C2H7N
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-Dimethylamino-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | CN(C=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC)C | C16H18N6O2
